Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],5.08474178946
[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-6.9972021657
[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-3.61402467407
[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.98931579786
[H:1][C:2]#[C:3][O:4][O:5][H:6]>>[H:1][C:2]#[C:3][O:4][O:5].[H:6],4.0125714542000015
[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-4.83655479316
[H:1][C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],1.22336691362
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],0.926606912288
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15],-1.98594342425
[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8],-0.96400029639
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]=[O:12]>>[H:1][O:2][C@:3]1([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11][O:12]1,1.87362804995
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],4.91932726234
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-2.90137708028
[C:6]([H:7])([H:8])=[C:9][H:10].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10],-0.164837866312
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11][H:12],5.66056275678
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])[O:7][H:8].[H:6],4.15128777809
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.41977662651
[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-0.640985842178
[O:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])(=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2],-1.19995719224
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:11]([H:12])[H:13],1.5150574744499998
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])=[C:10]([H:11])[H:12],1.74166551114
[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4]#[C:5])[C:7]([H:8])([H:9])[H:10].[H:6],5.570906057669999
[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[H:6].[O:1][O:2][C:3]#[C:4][H:5],3.20726720765
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],4.490643969140001
[C:4]([H:5])[H:6].[H:1][O:2]/[C:3]=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.57624414314
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.75657772084
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2],7.042559156799999
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]([C:3][H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],4.944087875
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.13893599175
[C:1].[C:2](=[C:3](\[H:4])[O:5][C:6]([H:7])[H:8])\[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.24430918742
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],4.48600862791
